US09447117B2
Step A: Ethyl 2-methoxy-6-(1H-pyrazol-5-yl)benzoate.
In a microwave vial was dissolved ethyl 2-bromo-6-methoxybenzoate (500 mg, 1.54 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (330 mg, 1.70 mmol) in DME (10 mL) and water (2 mL). Na2CO3 (259 mg, 3.09 mmol) was then added followed by Pd(PPh3)4 (89 mg, 0.077 mmol) and the reaction mixture was degassed with N2 for 10 minutes. The reaction mixture was then heated at 100° C. for 1 h in the microwave. The mixture was cooled to room temperature, filtered through Celite and washed with EtOAc and DCM. The crude solution was concentrated in vacuo and directly purified via silica gel chromatography (10-80% EtOAc in hexanes) to afford the title compound (125 mg, 33%). MS (ESI) mass calcd. for C13H14N2O3, 246.3. m/z found 247.1 [M+H]+. 1H NMR (400 MHz, Chloroform-d) δ 7.63 (d, J=2.2 Hz, 1H), 7.44-7.37 (m, 1H), 7.24 (d, J=8.1 Hz, 1H), 6.94 (dd, J=8.3, 0.9 Hz, 1H), 6.53 (d, J=2.3 Hz, 1H), 4.29 (q, J=7.2 Hz, 2H), 3.88 (s, 3H), 1.25-1.16 (m, 3H).

reactant | ethyl 2-bromo-6-methoxybenzoate | 1.54 mmol, 500 mg | BrC1=C(C(=O)OCC)C(=CC=C1)OC | C10H11BrO3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.70 mmol, 330 mg | CC1(OB(OC1(C)C)C1=CC=NN1)C | C9H15BN2O2
reactant | Na2CO3 | 3.09 mmol, 259 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.077 mmol, 89 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 2-methoxy-6-(1H-pyrazol-5-yl)benzoate | 125 mg, 33% | COC1=C(C(=O)OCC)C(=CC=C1)C1=CC=NN1 | C13H14N2O3
